US09227978B2
2′,6-Dichloro-4-ethyl-[1,1′-biphenyl]-3-amine
A mixture of 2′,6-dichloro-4-vinyl-[1,1′-biphenyl]-3-amine (500 mg, 1.9 mmol), CuCl (225 mg, 2.28 mmol) in MeOH (10 mL) at 0° C., NaBH4 (722 mg, 19 mmol) was added in portions and the resulting mixture was stirred at room temperature for 20 min. The reaction was quenched with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=30:1) to afford the desired product (300 mg, 59.4% yield). ESI-MS m/z: 266.0[M+H]+.

reactant | 2′,6-dichloro-4-vinyl-[1,1′-biphenyl]-3-amine | 1.9 mmol, 500 mg | ClC1=C(C=CC=C1)C1=CC(=C(C=C1Cl)C=C)N | C14H11Cl2N
reactant | NaBH4 | 19 mmol, 722 mg | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
catalyst | CuCl | 2.28 mmol, 225 mg | Cl[Cu]
product | 2′,6-Dichloro-4-ethyl-[1,1′-biphenyl]-3-amine | 300 mg, 59.4% yield | ClC1=C(C=CC=C1)C1=CC(=C(C=C1Cl)CC)N | C14H13Cl2N
